US07435815B2
N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(2-methoxy-phenyl)-amino]-N-ethyl-acetamide
prepared by reaction of 2-bromoacetyl bromide with N-benzyl-N-ethylamine and 4-tert-butyl-N-(2-methoxy-phenyl)-benzenesulfonamide

reactant | 2-bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | N-benzyl-N-ethylamine | C(C1=CC=CC=C1)NCC | C9H13N
reactant | 4-tert-butyl-N-(2-methoxy-phenyl)-benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=CC=C1)OC | C17H21NO3S
product | N-Benzyl-2-[(4-tert-butyl-benzenesulfonyl)-(2-methoxy-phenyl)-amino]-N-ethyl-acetamide | C(C1=CC=CC=C1)N(C(CN(C1=C(C=CC=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C(C)(C)C)=O)CC | C28H34N2O4S
